data/mechanisms/records/IMS9-EQ9.20a.json
{"mechanism_id": "IMS9-EQ9.20a", "species": [{"species_id": "methylcyclohexanol_molecular_ion", "mapped_smiles": "[OH+:7][CH:1]1[CH:2]([CH3:8])[CH2:3][CH2:4][CH2:5][CH2:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "ring_opened_c6_radical_ion", "mapped_smiles": "[CH2:6][CH2:5][CH2:4][CH2:3][CH:2]([CH3:8])[CH:1]=[OH+:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_c2_radical_ion", "mapped_smiles": "[CH3:6][CH2:5][CH2:4][CH2:3][C:2]([CH3:8])[CH:1]=[OH+:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "protonated_methacrolein_71", "mapped_smiles": "[CH2:3]=[C:2]([CH3:8])[CH:1]=[OH+:7]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "propyl_radical", "mapped_smiles": "[CH2:4][CH2:5][CH3:6]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methylcyclohexanol_molecular_ion"]}, {"state_id": "state_ring_opened", "species_ids": ["ring_opened_c6_radical_ion"]}, {"state_id": "state_after_rh", "species_ids": ["ring_opened_c2_radical_ion"]}, {"state_id": "state_products", "species_ids": ["protonated_methacrolein_71", "propyl_radical"]}], "steps": [{"step_id": "step_alpha_ring_opening", "from_state": "state_precursor", "to_state": "state_ring_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [7, 1]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "bond", "atom_maps": [7, 1]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rh_c2_to_c6", "from_state": "state_ring_opened", "to_state": "state_after_rh", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_loss_propyl", "from_state": "state_after_rh", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_1", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 243, "equation": "9.20", "figure": null, "panel": null, "section": "9.2 Alcohols"}, "confidence": 0.8, "curator_note": "Book draws 2 arcs for this branch on the molecular ion (the solid fishhook from the odd electron on O -- the same arc that serves the Eq. 9.19 branch -- and a dashed fishhook from the C1-C6 ring bond into the C1-O bond); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Ring alpha-cleavage is intramolecular, so the product is a single ring-opened distonic ion of unchanged m/z 114, not two fragments."}, {"evidence_id": "evidence_step_2", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rh_c2_to_c6", "support_type": "textbook_proposed", "locator": {"page": 243, "equation": "9.20", "figure": null, "panel": null, "section": "9.2 Alcohols"}, "confidence": 0.8, "curator_note": "Book draws 2 arcs on the folded ring-opened ion (a fishhook from the odd electron at C6 reaching toward the migrating H, and a fishhook from the C2-H bond back to C6); a third hook -- the second electron of the C2-H bond staying on C2 -- is implicit and is not drawn on the page. The migrating hydrogen cannot be atom-mapped (RDKit folds explicit H into implicit H counts), so all three collapse into the single encoded move <1>, the net one-electron relocation of the radical site from C6 to C2; this is the convention already used for the McLafferty rH step of IMS4-EQ4.33. Eq. 9.20 draws the ion in a cyclic conformation to show the six-membered H-transfer transition state."}, {"evidence_id": "evidence_step_3", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_loss_propyl", "support_type": "textbook_proposed", "locator": {"page": 243, "equation": "9.20", "figure": null, "panel": null, "section": "9.2 Alcohols"}, "confidence": 0.8, "curator_note": "Book draws 2 arcs on the ring-opened ion after rH (a fishhook from the odd electron into the forming pi bond and a fishhook from the breaking C-C sigma bond into that same pi bond); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). The odd electron sits on the methyl-bearing C2 next to the C1=O+H group, so the new pi bond forms toward C3 and the C3-C4 bond is homolysed, expelling C3H7. (drawn with its dot on the page)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 114.1039, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_114", "species_id": "methylcyclohexanol_molecular_ion", "step_id": null, "observed_mz": 114.1039, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}, {"peak_id": "peak_71", "species_id": "protonated_methacrolein_71", "step_id": "step_alpha_loss_propyl", "observed_mz": 71.0491, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-30T00:00:00Z", "modified_at": "2026-07-30T00:00:00Z"}}
